US07790724B2
c) 2-Cyano-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazole-4-carboxylic acid ethyl ester
To a solution of 2,2,6,6-tetramethyl-piperidine (0.365 mL, 2.17 mmol) in 4 mL of THF at −50° C. was added n-BuLi (1.08 mL, 2.17 mmol, 2M in pentane) and the mixture allowed to stir for 10 min at 0° C. The mixture was cooled to −50° C. and a solution of 1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbonitrile (prepared in the previous step) (0.440 g, 1.97 mmol) in 2 mL of THF was added and the reaction stirred for 1 h at −50° C. and then ethyl chloroformate (0.210 mL, 2.17 mmol) was added. After 10 min at −50° C. the reaction was quenched with brine (20 mL) and extracted with EtOAc (2×20 mL) and the organic layer dried (Na2SO4) and concentrated. The title compound was eluted from a 20-g SPE column with 20% EtOAc/hexanes to give 0.280 g (48%) of a colorless oil. 1H-NMR (CDCl3, 400 MHz): δ 7.81 (s, 1H), 5.89 (s, 2H), 4.40 (q, J=7.1 Hz, 2H), 3.65 (m, 2H), 1.41 (t, J=7.1 Hz, 3H), 0.96 (m, 2H), 0.00 (s, 9H). Mass spectrum (ESI, m/z): Calcd. for C13H21N3O3Si, 296.1 (M+H), found 295.5.

reactant | 2,2,6,6-tetramethyl-piperidine | 2.17 mmol, 0.365 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-BuLi | 2.17 mmol, 2M, 1.08 mL | [Li]CCCC
reactant | 1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbonitrile | C[Si](CCOCN1C(=NC=C1)C#N)(C)C | C10H17N3OSi
reactant | ethyl chloroformate | 2.17 mmol, 0.210 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-Cyano-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazole-4-carboxylic acid ethyl ester | 0.280 g, 48% | C(C)OC(=O)C=1N(C(=NC1)C#N)COCC[Si](C)(C)C | C13H21N3O3Si
